US07390903B2
A stirred solution of 0.448 g (1.38 mmol) of N-(3-benzoyl-5-bromo-thiophen-2-yl) acetamide in 20 ml toluene and 10 ml EtOH was degassed with argon. Tetrakis-(triphenylphosphine) palladium (0) (0.320 g, 0.27 mmol), phenyl boronic acid (0.194 g, 1.59 mmol) and 20 ml of an aqueous solution of Na2CO3 1N were added. The mixture was heated at 90° C. for 1 hour before cooling down to RT, filtered through Celite and concentrated. The mixture was extracted with ethyl acetate and aq. NaHCO3. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 6:1) afforded 0.393 g (88%) N-(3-benzoyl-5-phenyl-thiophen-2-yl)-acetamide as a light yellow solid. ES-MS m/e (%): 322 (M+H+, 100).

reactant | N-(3-benzoyl-5-bromo-thiophen-2-yl) acetamide | 1.38 mmol, 0.448 g | C(C1=CC=CC=C1)(=O)C1=C(SC(=C1)Br)NC(C)=O | C13H10BrNO2S
reactant | phenyl boronic acid | 1.59 mmol, 0.194 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 1N | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | Tetrakis-(triphenylphosphine) palladium (0) | 0.27 mmol, 0.320 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-(3-benzoyl-5-phenyl-thiophen-2-yl)-acetamide | 0.393 g, 88% | C(C1=CC=CC=C1)(=O)C1=C(SC(=C1)C1=CC=CC=C1)NC(C)=O | C19H15NO2S
